US07238689B2
2.0 g of m-chloroperbenzoic acid (purity: 70%, 11.6 mmoles) was added, with ice-cooling, to a solution of 0.8 g (2.6 mmoles) of 3-(3,5-dichloro-1-ethyl1H-pyrazol-4ylmethylthio)-5,5-dimethyl-2-isoxazoline dissolved in 20 ml of chloroform. The mixture was stirred for 1 hour and then at room temperature for 12 hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with chloroform. The resulting organic layer was washed with an aqueous sodium hydrogensulfite solution, an aqueous sodium hydrogencarbonate solution, water and an aqueous sodium chloride solution in this order and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The resulting solid was washed with n-hexane to obtain 0.41 g (yield: 46.6%) of 3-(3,5-dichloro-1-ethyl-1H-pyrazol-4-ylmethylsulfonyl)-5,5-dimethyl-2-isoxazoline as a white powder (melting point: 105.0 to 107.0° C.)

reactant | m-chloroperbenzoic acid | 11.6 mmoles, 2.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-(3,5-dichloro-1-ethyl1H-pyrazol-4ylmethylthio)-5,5-dimethyl-2-isoxazoline | 2.6 mmoles, 0.8 g | ClC1=NN(C(=C1CSC1=NOC(C1)(C)C)Cl)CC | C11H15Cl2N3OS
reactant | water | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(3,5-dichloro-1-ethyl-1H-pyrazol-4-ylmethylsulfonyl)-5,5-dimethyl-2-isoxazoline | 0.41 g, yield: 46.6% | ClC1=NN(C(=C1CS(=O)(=O)C1=NOC(C1)(C)C)Cl)CC | C11H15Cl2N3O3S
